US05167949
d) 2-[(4-Methoxyphenoxy)methyl]-4(3H)-pteridinone
Obtained using the procedure described in section b of Example 9, starting with 5.5 g (0.0194 mole) of 4-amino-2-[(4-methoxyphenoxy)methyl]pteridine in 150 ml of 5% aqueous sodium hydroxide. The solid obtained is taken up in dilute sodium hydroxide for purification. The insoluble portion is removed by filtration. The filtrate is acidified with acetic acid to pH 5.5. The precipitate formed is isolated by filtration; it is finally recrystallized from a mixture of ethanol and N,N-dimethylformamaide. Yld: 1.7 g (31%), m.p. 233°-234° C.

reactant | 4-amino-2-[(4-methoxyphenoxy)methyl]pteridine | 0.0194 mole, 5.5 g | NC1=NC(=NC2=NC=CN=C12)COC1=CC=C(C=C1)OC | C14H13N5O2
reactant | sodium hydroxide | 150 ml | [OH-].[Na+]
product | 2-[(4-Methoxyphenoxy)methyl]-4(3H)-pteridinone | COC1=CC=C(OCC2=NC3=NC=CN=C3C(N2)=O)C=C1 | C14H12N4O3
